US04762821
13.17 g of benzyl (S)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate tosylate (N. Yoneda, et al., Chem.Pharm.Bull., 31, 312 (1983)) was suspended in 30 mL CHCl3. N-methylmorpholine was added until the pH was 7, 6.8 g of dicyclohexylcarbodiimide and 3.17 g of pyruvic acid was added at -5° C. The reaction mixture was stirred at -50° C. for one hour and 0° C. for 48 hours. The reaction mixture was filtered, and the filtrate was concentrated to dryness to give a semi-solid, which was purified by passing through a silica gel column and eluting with ethyl acetate:hexane (1:1) to give benzyl N-pyruvoyl-(S)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate as a yellow oil, [α]D25 -10.3°.

reactant | benzyl (S)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate tosylate | 13.17 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C1N[C@@H](CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | dicyclohexylcarbodiimide | 6.8 g, pH was 7 | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyruvic acid | 3.17 g | C(C(=O)C)(=O)O | C3H4O3
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | benzyl N-pyruvoyl-(S)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | C(C(=O)C)(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)OCC1=CC=CC=C1 | C20H19NO4
